### PR TITLE
feat(Combinatorics/SimpleGraph/Star): the nth star graph is contained in a graph iff max degree is at least `n`

### PR DESCRIPTION
**Pull request by SnirBroshi**
- `starGraph (r : W) ⊑ G ↔ Nat.card W ≤ G.maxDegree + 1`
- `starGraph v ⊑ starGraph w ↔ Nonempty (V ↪ W)`
- `starGraph v ⊴ starGraph w ↔ Nonempty (V ↪ W)`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Star.lean [hunk 1]
```diff
@@ -84,4 +84,85 @@ lemma degree_starGraph_center [Fintype V] [DecidableEq V] {r : V} :
...
+theorem maxDegree_starGraph [Fintype V] [DecidableEq V] (r : V) :
+    (starGraph r).maxDegree = Fintype.card V - 1 :=
+  have : Nonempty V := ⟨r⟩
+  degree_le_maxDegree _ r |>.trans_eq' degree_starGraph_center |>.antisymm' <|
+    Nat.le_sub_one_of_lt <| maxDegree_lt_card_verts _
+
+/-- An equivalence of vertex types lifts to an isomorphism of star graphs. -/
+@[simps toEquiv]
+def starGraphIsoOfEquiv [DecidableEq W] (e : V ≃ W) (v : V) (w : W) :
+    starGraph v ≃g starGraph w where
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Star.lean:97]: Did this come up in practice? 
I'm slightly surprised of the shape of this, instead of `starGraph (e v)` on the RHS. But I guess the dependent types are easier this way even though you lose the fact that the equiv is definitionally equal to e?
But if you used this in practice and it works out, then I'm happy to go with it

File: Mathlib/Combinatorics/SimpleGraph/Star.lean [hunk 2]
```diff
@@ -84,4 +84,85 @@ lemma degree_starGraph_center [Fintype V] [DecidableEq V] {r : V} :
...
+  injective' _ := by grind [RelHom.coeFn_mk, notMem_neighborSet_self]
+
+@[simp]
+theorem coe_starGraphCopyNeighborSet (v : V) :
+    ⇑(G.starGraphCopyNeighborSet v) = (·.map (↑) |>.getD v) := by
+  ext u
+  cases u <;> rfl
+
+theorem starGraph_fin_degree_add_one_isContained (v : V) [Fintype (G.neighborSet v)] :
+    starGraph (0 : Fin (G.degree v + 1)) ⊑ G := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Star.lean:154]: I suspect it'd be better here to talk about `starGraph x` for any `x : W` and Fintype W with `card W <= G.degree + 1`, rather than fixing `Fin` specifically?

File: Mathlib/Combinatorics/SimpleGraph/Star.lean [hunk 3]
```diff
@@ -84,4 +84,85 @@ lemma degree_starGraph_center [Fintype V] [DecidableEq V] {r : V} :
...
+  let f := (Fintype.equivFinOfCardEq <| G.card_neighborSet_eq_degree v).symm
+  refine ⟨⟨Fin.cons v ((↑) ∘ f), fun {a b} ↦ ?_⟩, by simp [Fin.cons_injective_iff, f.injective]⟩
+  cases a using Fin.cases <;> cases b using Fin.cases <;>
+    grind [starGraph_adj, Fin.cons, mem_neighborSet, adj_symm]
+
+variable {G} in
+theorem starGraph_fin_add_one_isContained_iff_le_maxDegree [Nonempty V] [Fintype V]
+    [DecidableRel G.Adj] {n : ℕ} : starGraph (0 : Fin (n + 1)) ⊑ G ↔ n ≤ G.maxDegree := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Star.lean:162]: And perhaps the same here (adjusting the arithmetic as needed)

File: Mathlib/Combinatorics/SimpleGraph/Star.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Star.lean]: Yeah, these morphism `def`s originated from trying to prove the `IsContained` theorems below, I extracted them from the proofs.
It does seem useful to lift the given functions as-is, fixed! (moved the `swap`s to the proofs)
